US07851473B2
(1) 2,2,2-Trichloroethyl (6-cyanopyridin-3-yl)carbamate
To a solution of 5-cyanopyridine-2-carbonitrile (1.00 g, 8.39 mmol) and pyridine (0.821 ml, 10.1 mmol) in tetrahydrofuran (28 ml) was added 2,2,2-trichloroethyl chloroformate (1.39 ml, 10.1 mmol) with ice-cooling and the mixture was stirred at room temperature for 1 hour. Water was poured into the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. To the residue was added hexane and a solid was collected by filtration to obtain the desired product (2.27 g, 92.0%).

reactant | 5-cyanopyridine-2-carbonitrile | 8.39 mmol, 1.00 g | C(#N)C=1C=CC(=NC1)C#N | C7H3N3
reactant | pyridine | 10.1 mmol, 0.821 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 10.1 mmol, 1.39 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trichloroethyl (6-cyanopyridin-3-yl)carbamate | 2.27 g, 92.0% | C(#N)C1=CC=C(C=N1)NC(OCC(Cl)(Cl)Cl)=O | C9H6Cl3N3O2
